US05358949
To a solution prepared by 2.9 g of 3-amino-8-methylcarbostyril, 3.5 ml of triethylamine in 50 ml of dichloromethane was added dropwise a solution prepared by 1.9 ml of chloroacetyl chloride in 10 ml of dichloromethane under ice-cooled condition. After the dropwise addition, the reaction mixture was stirred at room temperature for 30 minutes. Then the reaction mixture was concentrated by removing the solvent by evaporation under reduced pressure, the residue thus obtained was suspended in aceton and the suspension was poured in an ice-water. The crystals formed were collected by filtration, washed with water, dried, then recrystallized from acetone-water to obtain 3.6 g of 3-chloroacetylamino-8-methylcarbostyril. White powdery substance. Melting point: 271.5°-272° C. (decomposed).

reactant | 3-amino-8-methylcarbostyril | 2.9 g | NC=1C(NC2=C(C=CC=C2C1)C)=O | C10H10N2O
reactant | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 1.9 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | aceton | CC(=O)C | C3H6O
product | 3-chloroacetylamino-8-methylcarbostyril | 3.6 g | ClCC(=O)NC=1C(NC2=C(C=CC=C2C1)C)=O | C12H11ClN2O2
